US04940714
2-Cyclopropylcarbonyl-1H-imidazo[4,5-c]quinoline (Ic-1)
To a cold solution (-70° C.) of 1.23 g of 3-trityl-3H-imidazo[4,5-c]quinoline (III-1) in 25 ml of THF was added dropwise a mixture of 3 ml of 1.6M solution of n-butyl lithium in hexane and 3 ml of THF while being kept at -72°~-68° C. The mixture was stirred at the same temperature for 30 min., whereby a yellow solution of 2-lithio form (III-1') was obtained. All the 2-lithio form used in the Examples hereafter are prepared according to the same reaction conditions. To the yellow solution of the compound (III-1') was added 1.04 g of cyclopropanecarbonyl chloride all at once. The temperature of the reaction solution was gradually elevated to room temperature, and the solvent was evaporated under reduced pressure. The residue was partitioned between ethyl acetate and aqueous ammonia. The organic layer was washed with water and saturated brine, successively, and dried. The ethyl acetate was removed by evaporation, and the residue was crystallized from n-hexane--ethyl acetate to give 900 mg of the crude crystals (Ib-1). The compound (Ib-1) was deprotected by mixing with 4 ml of trifluoroacetic acid. After stirring for 30 min. at room temperature, the reaction mixture was concentrated under reduced pressure, and the residue was partitioned between ethyl acetate and saturated aqueous sodium hydrogencarbonate. The organic layer was washed with water and saturated brine, and dried. The ethyl acetate was removed by evaporation, and the residue was chromatographed on a column of silica gel for purification. The fraction eluted with chloroform--methanol (30:1 v/v) was concentrated and crystallized from -hexane to give 395 mg (yield: 56%) of the titled compound (Ic-1). This was recrystallized from ethanol to give colorless crystals melting at 230° C. (dec.).

reactant | 3-trityl-3H-imidazo[4,5-c]quinoline | 1.23 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC2=C1C=NC=1C=CC=CC21 | C29H21N3
reactant | n-butyl lithium | C(CCC)[Li]
reactant | cyclopropanecarbonyl chloride | 1.04 g | C1(CC1)C(=O)Cl | C4H5ClO
reactant | trifluoroacetic acid | 4 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | 2-Cyclopropylcarbonyl-1H-imidazo[4,5-c]quinoline | 395 mg, yield: 56% | C1(CC1)C(=O)C=1NC2=C(C=NC=3C=CC=CC23)N1 | C14H11N3O
